US03974161
B. Ethyl 6-Chloropyrimido[4,5-b]quinolin-4(3H)-One-2-Carboxylate
Diethyl oxalate (350 ml.) and 5-chloro-2-aminoquinoline-3-carboxamide (5.9 g., 0.0267 mole) are heated together at 170° C. for 4 hours. By-product water and ethanol are distilled from the reaction mixture. The dark reaction mixture is cooled, treated with hexane (300 ml.) and filtered. The brown solid is dissolved in methylene chloride:ethanol (1:1), decolorized with charcoal and concentrated to give a tan solid. The solid is recrystallized from methylene chloride-hexane. It is purified further by chromatography on silica gel using methylene chloride:ethanol (9:1) as eluant. The product, recovered by evaporation of the eluate, is recrystallized from methylene chloride-ethanol. Yield = 0.756 g. (9.3%). M.P. 278°-279° C. (dec.).

reactant | Diethyl oxalate | 350 ml | C(C(=O)OCC)(=O)OCC | C6H10O4
reactant | 5-chloro-2-aminoquinoline-3-carboxamide | 0.0267 mole, 5.9 g | ClC1=C2C=C(C(=NC2=CC=C1)N)C(=O)N | C10H8ClN3O
solvent | hexane | 300 ml | CCCCCC | C6H14
product | Ethyl 6-Chloropyrimido[4,5-b]quinolin-4(3H)-One-2-Carboxylate | ClC1=C2C=C3C(=NC2=CC=C1)N=C(NC3=O)C(=O)OCC | C14H10ClN3O3
